US05998470
a) S-methyl dithiobiuret hydroiodide salt
To a stirring solution of dithiobiuret (5.0 g, 37 mmol) in THF (75 mL) was added iodomethane (13.1 g, 92.5 mmol, 5.76 ml). After stirring at room temperature for 22 h, the solution was diluted with 150 mL of toluene and allowed to stand at 0° C. for 3 h. The crystals were collected by filtration and washed with cold 2:1 toluene/THF, then dried in vacuo to give the title compound as a white solid (8.7 g, 85%). MS(ESI): 149.9 (M+H)+.

reactant | dithiobiuret | 37 mmol, 5.0 g | NC(=S)NC(=S)N | C2H5N3S2
reactant | iodomethane | 92.5 mmol, 5.76 ml, 13.1 g | IC | CH3I
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | S-methyl dithiobiuret hydroiodide salt | 8.7 g, 85% | I.CS=C(N)NC(=S)N | InChI=1S/C3H9N3S2.HI/c1-8-3(5)6-2(4)7;/h8H,5H2,1H3,(H3,4,6,7);1H
